US04615970
In 250 ml of tetrahydrofuran were dissolved 8.6 g of 4-methylphenylhydrazine and 15.0 g of 1,3-diphenylcarbodiimide and after stirring the solution for 2 hours under ice-cooling, tetrahydrofuran was distilled off under reduced pressure. When 40 ml of benzene and 80 ml of n-hexane were added to the oily product thus formed, crystals deposited. By collecting the crystals thus deposited by filtration, 5.9 g of 1,2-diphenyl-3-(4-methylphenylamino)guanidine was obtained.

reactant | 4-methylphenylhydrazine | 8.6 g | CC1=CC=C(C=C1)NN | C7H10N2
reactant | 1,3-diphenylcarbodiimide | 15.0 g | C1(=CC=CC=C1)N=C=NC1=CC=CC=C1 | C13H10N2
solvent | tetrahydrofuran | 250 ml | O1CCCC1 | C4H8O
product | 1,2-diphenyl-3-(4-methylphenylamino)guanidine | 5.9 g | C1(=CC=CC=C1)NC(=NC1=CC=CC=C1)NNC1=CC=C(C=C1)C | C20H20N4
